### PR TITLE
feat(Computability/MultiTapeTM): input/output tape predicates

### PR DESCRIPTION
**Pull request by SamuelSchlesinger**
The stuff we talked about in Discord.

### CODE REVIEW

File: Cslib/Foundations/Data/StackTape.lean [hunk 1]
```diff
@@ -88,6 +88,12 @@ def cons (x : Option Symbol) (xs : StackTape Symbol) : StackTape Symbol :=
 @[simp, scoped grind =]
 lemma cons_none_nil_toList : (cons none (nil : StackTape Symbol)).toList = [] := by grind
 
+@[simp, scoped grind =]
+lemma cons_none_nil : cons none (nil : StackTape Symbol) = nil := rfl
+
+@[simp, scoped grind =]
```
Comment (crei) [inline Cslib/Foundations/Data/StackTape.lean]: I'm not sure, but do these really need the grind annotation? `cons` itself is already marked `grind` and the proof is `rfl`, so I think this should not be needed.

File: Cslib/Computability/Machines/MultiTapeTuring/Basic.lean [hunk 2]
```diff
@@ -90,6 +105,58 @@ structure MultiTapeTM k Symbol [Inhabited Symbol] [Fintype Symbol] where
...
+  tape `0` steps off an end of the input in some direction, no chain of stay-moves on the
+  blank can lead to another off-end step in the same direction.
+
+The semantic upshot is captured trace-level by `HasInputTape.head_position_bounded`:
+along any trace from `initCfg s` with nonempty input, tape `0`'s content matches some
+`canonicalInputTape s p` with `p ∈ [-1, s.length]`.
+-/
+structure HasInputTape {k : ℕ} (tm : MultiTapeTM (k + 1) Symbol) : Prop where
+  /-- Every transition writes back the symbol it read on tape `0`. -/
+  readPreserving : ∀ q reads, ((tm.tr q reads).1 0).IsReadPreserving (reads 0)
```
Comment (crei) [inline Cslib/Computability/Machines/MultiTapeTuring/Basic.lean]: I think this is a bit hard to read, especially since `IsReadPreserving` in the end is super simple. Do you think it would be better to change `IsReadPreserving` to instead take a transition function and a tape number?

File: Cslib/Foundations/Data/BiTape/Canonical.lean [hunk 3]
```diff
@@ -0,0 +1,179 @@
...
+variable {Symbol : Type}
+
+/--
+The canonical `BiTape` configuration for an input tape containing `s`, with the head at
+natural number position `n` (i.e. `0` is the start of the input).
+
+For `n < s.length`, the head reads `some s[n]`; for `n ≥ s.length`, the head reads
+`none` and the tape has `s.reverse` on the left.
+-/
+def canonicalInputTapeNat (s : List Symbol) (n : ℕ) : BiTape Symbol where
```
Comment (crei) [inline Cslib/Foundations/Data/BiTape/Canonical.lean]: Would it be easier to define this as
```
def canonicalInputTapeNat (s : List Symbol) (n : ℕ) : BiTape Symbol :=
  move_right^[n] (mk₁ s)
```
?

in my other branches, I have a function
```
def move_int (t : BiTape Symbol) (δ : ℤ) : BiTape Symbol := ...
```
which could also come in handy here.

File: Cslib/Foundations/Data/BiTape/Canonical.lean [hunk 4]
```diff
@@ -0,0 +1,179 @@
...
+The canonical `BiTape` shape of the input tape at integer position `p`, with `p = -1`
+representing "one cell left of the input" (a blank cell with `s` to the right) and
+`p ≥ 0` delegating to `canonicalInputTapeNat`.
+
+The head-position bound theorem shows that traces from `initCfg s` only produce tapes
+matching `canonicalInputTape s p` for `-1 ≤ p ≤ s.length`.
+-/
+def canonicalInputTape (s : List Symbol) (p : ℤ) : BiTape Symbol :=
+  if 0 ≤ p then canonicalInputTapeNat s p.toNat
+  else ⟨none, ∅, StackTape.map_some s⟩
```
Comment (crei) [inline Cslib/Foundations/Data/BiTape/Canonical.lean]: It's a bit surprising to me that this cuts off for negative numbers but not for positive numbers beyond the input length. is that intended, or should this be the equivalent of `move_int (mk₁ s) p`?

File: Cslib/Foundations/Data/BiTape/Canonical.lean [hunk 5]
```diff
@@ -0,0 +1,179 @@
...
+  cases s <;> simp [canonicalInputTapeNat, BiTape.mk₁, BiTape.nil]
+
+@[simp]
+lemma canonicalInputTape_zero (s : List Symbol) :
+    canonicalInputTape s 0 = BiTape.mk₁ s :=
+  (canonicalInputTape_ofNat s 0).trans (canonicalInputTapeNat_zero s)
+
+/-- One-step move-right on the canonical configuration at natural-number position `n`,
+when still within the input region. -/
+lemma canonicalInputTapeNat_move_right {s : List Symbol} {n : ℕ} (h : n < s.length) :
```
Comment (crei) [inline Cslib/Foundations/Data/BiTape/Canonical.lean]: If we use `move_int` instead of this custom definition, these lemmas could be generally useful.

File: Cslib/Computability/Machines/TuringCommon.lean [hunk 6]
```diff
@@ -25,4 +26,103 @@ deriving Inhabited
...
+"move in direction `d`, then stay-on-blank repeatedly, then move in direction `d` again"
+exists. Equivalently: no harmful state in direction `d` is reachable via a post-`d`-move
+stay-on-blank chain.
+
+This is the syntactic condition we use to keep the head within the input region (plus one
+cell on either side): once the head steps off the input in direction `d`, it cannot step
+further in direction `d` without returning first. The condition is finitary — both the
+reachability relation and the existential in `MovesOffBlankInDir` range over finite types.
+-/
+def IsBoundedInDirectionOnTape
```
Comment (crei) [inline Cslib/Computability/Machines/TuringCommon.lean:134]: This all assumes that we do not write on the first tape. Do you think this could be more self-contained by adding this to MoveThenStays?

File: Cslib/Computability/Machines/MultiTapeTuring/Basic.lean [hunk 7]
```diff
@@ -345,4 +412,534 @@ lemma eval_eq_some_iff_transformsTapes
...
+  · subst h_empty
+    refine ⟨0, by omega, by simp, ?_⟩
+    rw [canonicalInputTape_nil]; exact h_nil
+  · exact ⟨p, h_strong.pos_lower, h_strong.pos_upper, h_strong.tape_eq⟩
+
+/-- **Quantitative head-position bound.** Every configuration reachable from `initCfg s`
+in `t` steps has its tape-`0` content in canonical shape `canonicalInputTape s p` for some
+integer position `p ∈ [-1, s.length]`. In particular, the head on tape `0` stays within
+one cell of the input region throughout the trace. -/
+theorem HasInputTape.head_position_bounded
```
Comment (crei) [inline Cslib/Computability/Machines/MultiTapeTuring/Basic.lean:977]: I haven't read through the full file, but I think I understood that this machinery starts with the initial configuration. I try to avoid `tm.initCfg` because it makes a lot of assumptions that makes the theorems that use it unusable for composition (all tapes except the first are empty, for example). If instead, we just assume "we start with a configuration where the head is inside the input", the theorem could be directly applied in a proof for tm composition.

File: Cslib/Computability/Machines/MultiTapeTuring/Basic.lean [hunk 8]
```diff
@@ -52,12 +53,26 @@ There are multiple ways to talk about the behaviour of a multi-tape Turing machi
 * `MultiTapeTM.eval`: executes a TM on initial tapes `tapes` and returns the resulting tapes if it
   eventually halts
 
+For machines with designated input and output tapes:
+
+* `MultiTapeTM.HasInputTape`: tape `0` is write-preserving, with a syntactic head-bound
+  condition that rules out two consecutive same-direction off-end moves
```
Comment (crei) [inline Cslib/Computability/Machines/MultiTapeTuring/Basic.lean:59]: Maybe add: In other words, the machine will not modify the input tape contents and the head will move at most one cell outside the written area. (not 100% happy with the wording)

File: Cslib/Computability/Machines/MultiTapeTuring/Basic.lean [hunk 9]
```diff
@@ -52,12 +53,26 @@ There are multiple ways to talk about the behaviour of a multi-tape Turing machi
...
+* `MultiTapeTM.HasOutputTape`: in a machine with at least two tapes, the last tape is write-only
+  (`Stmt.IsWriteOnly` on every transition)
```
Comment (crei) [inline Cslib/Computability/Machines/MultiTapeTuring/Basic.lean:61]: maybe add: , i.e. after each write, the head moves one cell to the right and does not move otherwise.

File: Cslib/Computability/Machines/MultiTapeTuring/Basic.lean [hunk 10]
```diff
@@ -345,4 +416,575 @@ lemma eval_eq_some_iff_transformsTapes
 
 end MultiTapeTM
 
+/-!
```
Comment (crei) [inline Cslib/Computability/Machines/MultiTapeTuring/Basic.lean:419]: Maybe this should all move to a different file?

File: Cslib/Foundations/Data/BiTape.lean [hunk 11]
```diff
@@ -127,6 +128,73 @@ lemma optionMove_nil (m : Option Dir) : (nil : BiTape Symbol).optionMove m = nil
...
+values move left. -/
+def move_int (t : BiTape Symbol) (delta : ℤ) : BiTape Symbol :=
+  (moveEquiv ^ delta) t
+
+@[simp]
+lemma move_int_zero_eq_id (t : BiTape Symbol) :
+    t.move_int 0 = t := by
+  simp [move_int]
+
+@[simp]
```
Comment (crei) [inline Cslib/Foundations/Data/BiTape.lean:148]: I'm not sure I would make this a simp. I think it's more useful to have simp lemmas that combine compositions:
`((t.move_int -1).move_int x).move_int 1 = t.move_int (-1 + x + 1)`

On the other hand, maybe transforming everything into the function-view first would be best, then `move_right` etc is not useful anyway.

File: Cslib/Foundations/Data/BiTape.lean [hunk 12]
```diff
@@ -127,6 +128,73 @@ lemma optionMove_nil (m : Option Dir) : (nil : BiTape Symbol).optionMove m = nil
...
+lemma move_int_move_int (t : BiTape Symbol) (delta₁ delta₂ : ℤ) :
+    (t.move_int delta₁).move_int delta₂ = t.move_int (delta₁ + delta₂) := by
+  change (moveEquiv ^ delta₂) ((moveEquiv ^ delta₁) t) =
+    (moveEquiv ^ (delta₁ + delta₂)) t
+  rw [← Equiv.Perm.mul_apply, ← zpow_add, add_comm]
+
+@[simp]
+lemma move_int_nil (delta : ℤ) : (nil : BiTape Symbol).move_int delta = nil := by
```
Comment (crei) [inline Cslib/Foundations/Data/BiTape.lean:180]: I think this could be more easily proven by turning `nil` into its function view. Although I realize we don't have that here yet....

File: Cslib/Foundations/Data/RelatesInSteps.lean [hunk 13]
```diff
@@ -120,6 +120,17 @@ lemma RelatesInSteps.succ'_iff {a b : α} {n : ℕ} :
   · rintro ⟨t', h_red, h_steps⟩
     exact h_steps.head a t' b n h_red
 
+/--
+A predicate preserved by every step of `r` is preserved along any chain of `r`-steps.
+-/
+lemma RelatesInSteps.invariant {a b : α} {n : ℕ} {P : α → Prop}
```
Comment (crei) [inline Cslib/Foundations/Data/RelatesInSteps.lean:126]: naming: Maybe mention the word "transitivity"?

File: Cslib/Foundations/Data/BiTape/Canonical.lean [hunk 14]
```diff
@@ -0,0 +1,158 @@
...
+variable {Symbol : Type}
+
+/--
+The canonical `BiTape` configuration for an input tape containing `s`, with the head at
+natural number position `n` (i.e. `0` is the start of the input).
+
+For `n < s.length`, the head reads `some s[n]`; for `n ≥ s.length`, the head reads
+`none`.
+-/
+def canonicalInputTapeNat (s : List Symbol) (n : ℕ) : BiTape Symbol :=
```
Comment (crei) [inline Cslib/Foundations/Data/BiTape/Canonical.lean:41]: I think with `move_int`, all of the definitions here are redundant. I think it would be better to directly work with `(BiTape.mk₁ s).move_int n` instead.

File: Cslib/Computability/Machines/MultiTapeTuring/Basic.lean [hunk 15]
```diff
@@ -345,4 +416,575 @@ lemma eval_eq_some_iff_transformsTapes
...
+/-! ### Read-only input tape -/
+
+/--
+**Step decomposition for an input-tape step.** A step from `cfg` to `cfg'` factors through
+the predecessor state `q` (witnessed by `cfg.state = some q`) and specifies the tape-`0`
+movement explicitly: `cfg'.tapes 0` is `cfg.tapes 0` under `optionMove` with the direction
+dictated by `tm.tr q`. The intermediate `tm.step ⟨some q, cfg.tapes⟩ = some cfg'` form is
+handy for feeding `MoveThenStaysOnBlank.move`, whose constructor destructures `cfg`.
+-/
+lemma HasInputTape.step_tape0_decompose
```
Comment (crei) [inline Cslib/Computability/Machines/MultiTapeTuring/Basic.lean:461]: I think this lemma and probably some others in this file are overly complicated.

File: Cslib/Computability/Machines/MultiTapeTuring/Basic.lean [hunk 16]
```diff
@@ -345,4 +416,575 @@ lemma eval_eq_some_iff_transformsTapes
...
+  · simpa [h_sym, h_mov, BiTape.optionMove, BiTape.write] using h_right'
+  · simp [h_mov, BiTape.optionMove, BiTape.write, BiTape.move, BiTape.move_right, h_right']
+
+/--
+**Trace-level output invariant.** Along any chain of step transitions starting from a
+configuration whose output tape has empty `right` `StackTape`, the output tape's `right`
+remains empty. Use `HasOutputTape.relatesInSteps_outputTapeContents` when the stronger
+canonical output shape is needed.
+-/
+lemma HasOutputTape.relatesInSteps_right_empty
```
Comment (crei) [inline Cslib/Computability/Machines/MultiTapeTuring/Basic.lean:643]: I found it easier to work with `tm.configs` instead of `RelatesInSteps` - on the other hand, `tm.configs` only works for deterministic machines...
